Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-2.67715232659
[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.85792881263
[C:6]([H:8])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:7][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-7.89853591
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]1[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],0.2737701747
[H:12].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.60651465864
[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7].[H:8]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8],-2.3650792179599995
[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.7565169261099998
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],5.02698322045
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],5.2230634235
[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.55732312421
[H:1][O:2][C:3][C:4]([H:5])[C:6]#[C:7][C:9]([H:10])[H:11].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])[H:11],-2.60261222022
[H:1][O:2][C:3]/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])\[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3],3.85372747893
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.490044298469999
[O:1][C@@:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8],-0.241298332959
[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8].[O:9][H:10]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10],-5.04668115323
[C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-7.724456637969999
[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]/[C:2]([H:3])=[C:4](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],3.8580704745
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2],7.18511114555
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[C:9]=[C:10]([H:11])[H:12].[H:8],1.65462277412
[C:2](=[C:3](\[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])\[C:15]([H:16])([H:17])[H:18].[H:1]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.79360806367
[H:1][O:2][C:3][O:4][H:5]>>[C:3][O:4][H:5].[H:1][O:2],6.160826726980001
[C:1][C:2][O:3].[C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-0.44165020883
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.28903231422
[H:1][C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][C:2][O:3][C:4][O:5][H:6],6.65530573006
[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],0.819805371239
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][O:10]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14],-2.99405517847
[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:4].[O:1]=[C:2]([C:3][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.27710333794
